US09145392B2
5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine (“92”)
The reaction mixture of 6-chloro-5-ethyl-pyrimidin-4-ylamine (50.00 mg; 0.32 mmol; 1.00 eq.), 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidine (138.05 mg; 0.33 mmol; 1.05 eq.) and DIEA (65.77 mg; 0.48 mmol; 1.50 eq.) in DMSO (1.5 ml) was placed in microwave at 125° C. for 1 hr. found small amount desired, mostly was sm, 140° C. for another 1 hr, more product formed, 150° C. for another 1 hr, purified the product by HPLC, collected title compound 33 mg, yield 16%. LC-MS (M+1=536, obsd.=536).

reactant | 6-chloro-5-ethyl-pyrimidin-4-ylamine | 0.32 mmol, 50.00 mg, 1.00 eq. | ClC1=C(C(=NC=N1)N)CC | C6H8ClN3
reactant | 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidine | 0.33 mmol, 138.05 mg, 1.05 eq. | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN1CC(C1)F)C1CCNCC1)C(F)(F)F | C20H23F5N4
reactant | DIEA | 0.48 mmol, 65.77 mg, 1.50 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | 5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine | 33 mg, yield 16% | C(C)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN1CC(C1)F)N | C26H30F5N7
